US08476301B2
Benzyl (2E)-but-2-enoate
Crotonic acid (70 g, 812 mmol) was dissolved in N,N-dimethylformamide (467 ml), which was cooled in an ice bath under nitrogen, and potassium carbonate (61.6 g, 447 mmol) was added. Benzyl bromide (91.7 ml, 772 mmol) was added dropwise to the reaction mixture over 20 minutes. The reaction mixture was stirred at mom temperature for 18 hours. Ethyl acetate was added to the reaction mixture, which was filtered through Celite. The filtered ethyl acetate solution was washed with water, a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution. The organic layer was dried over magnesium sulfate, filtered and concentrated under reduced pressure to give the title compound (142 g, yield: 99.4%).

reactant | Crotonic acid | 812 mmol, 70 g | C(\C=C\C)(=O)O | C4H6O2
reactant | potassium carbonate | 447 mmol, 61.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl bromide | 772 mmol, 91.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 467 ml | CN(C=O)C | C3H7NO
product | Benzyl (2E)-but-2-enoate | 142 g, yield: 99.4% | C(\C=C\C)(=O)OCC1=CC=CC=C1 | C11H12O2
